US03950423
In carrying out the process of the present invention, Compound I herein above, 10,11-dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cyclohepten-5-one, or a derivative thereof, is contacted with a reducing agent selected from alkali or alkaline earth metal borohydrides, dissolved in a solvent relatively inert under reaction conditions comprising either a loweralkanol such as ethyl alcohol or isopropyl alcohol or an ether, such as dioxane or tetrahydrofuran, at a temperature of from 0°C. to the reflux temperature of the solvent for a period of from 1-6 hours to produce a corresponding 10,11-dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cyclohepten-5-ol which, in turn, is treated with a halide compound selected from hydrogen chloride or hydrogen bromide, a phosphorous halide such as phosphorous pentachloride, or thionyl chloride. In carrying out the steps of the reaction, the cyclohepten-5-ol compound is treated with stirring at a temperature between about 0°-50°C. with thionyl chloride in at least equimolar amounts to produce the corresponding 5-chloro-10,11-dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cycloheptene. The chloro substituent of the dibenzocycloheptene compound is then replaced with a malonic ester substituent by contacting the 5-halo compound with a loweralkyl ester of malonic acid in the presence of a strong base such as sodium hydride at a temperature of from 0°C. to 100°C. Preferably the malonate ester is first mixed with sodium hydride in mineral oil and the solution of malonic ester is then treated with an appropriate amount of the 5-chloro-10,11-dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cycloheptene to produce the desired 10,11-dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]-cycloheptene-5-malonate dialkyl ester. The malonate ester is then decarboxylated by heating with a solution of a strong base, advantageously an alcoholic solution of an alkali metal hydroxide, to produce a corresponding 10,11-dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]-cycloheptene-5-acetic acid.

reactant | 10,11-dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cyclohepten-5-one | FC1(C(C2=C(C(C3=C1C=CC=C3)=O)C=CC=C2)(F)F)F | C15H8F4O
reactant | ethyl alcohol | C(C)O | C2H6O
reactant | isopropyl alcohol | C(C)(C)O | C3H8O
reactant | ether | CCOCC | C4H10O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 10,11-dihydro-10,10,11,11-tetrafluoro-5H-dibenzo[a,d]cyclohepten-5-ol | FC1(C(C2=C(C(C3=C1C=CC=C3)O)C=CC=C2)(F)F)F | C15H10F4O
